Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ man with diabetes and metastatic 
choriocarcinoma, on single patient IND trial who is admitted 
from the ED with subacute progressive dyspnea.

Patient noted increased dyspnea approximately 2 weeks prior to 
admission. First noticed while walking up steps, then progressed 
to difficulty after walking for a prolonged period of time. 
Symptoms continued to progress, and over the weekend he had 
difficulty even standing up before getting winded. He called his 
oncologist office, and was directed into the ED.

In the ED, initial VS were pain 4, T 97.8, BP 115/73, HR 89, RR 
18, O2 92% RA. Desatted to 88%RA. Initial labs notable for WBC 
9.5, HCT 33.1, PLT 124. Na 137, K 3.4, HCO3 14, Cr 2.7. Trop 
0.05x2. BNP 903. CXR showed substantial increase in the size and 
number of pulmonary mets. Bilateral ___ showed no evidence of 
DVT. Patient was given home medications and insulin. VS prior to 
transfer were pain 0, T 98.1, HR 99, BP 130/68, RR 22, O2 
95%4LNC.

On arrival to the floor, patient notes progressive dyspnea as 
above. He denies orthopnea or PND. No leg swelling and not 
gaining weight. No chest pain or palpitations. No fevers or 
chills. He has intermittent mild epistaxis. No ST. No dysphagia 
or odynophagia. No N/V. He is constipated with last BM last 
___. No new rashes or joint pains. No sick contacts. Last 
chemo was on ___.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: Diagnosed with widely metastatic choriocarcinoma 
including lung, liver, lymph nodes, spleen, mediastinum, 
gallbladder (s/p CCY) adrenal glands, kidneys and brain 
metastases. Back pain and mass in left testes. Beta hCG of 1.43 
million.
- EP X1 followed by VIP, TIP ×3, with plateauing of hCG
- ___ Orchiectomy with resection of 7 x 4 x 3 cm mixed NSG CT 
with extensive necrosis
- Postoperative ACE ×1, VIP ×1, and ATP ×1 with minimal hCG drop
- ___: Gamma knife to a left occipital brain metastasis
- ___: 3 sequential cycles of high-dose 
chemotherapy (carboplatin/etoposide) with ASCT at ___ 
- ___: Restaging tests show complete response
- ___: Relapse with hCG rise and new pulmonary metastases
- No auto cells leftover. Stem cells collected from identical 
twin
- ___: HDC #4 with 
gemcitabine/docetaxel/melphalan/carboplatin with this syngeneic 
stem cell transplant. HCG rising at admission to 1367. 
Toxicities included mucositis, rash, and orthostatic 
hypotension.
- ___: Radiation necrosis of the brain had a previously 
treated left occipital metastasis with extensive edema. Symptoms 
of a right visual field cut and residual left arm weakness. 
Responded to dexamethasone.
- ___: Resection of 9 residual lesions at all 3 lobes of the 
right lung. Pathology with necrosis and all of them.
- ___: Resection of 5 residual lesions in left upper lobe 
and left lower lobe of lung. Pathology with necrosis and all of 
them.
- ___: Isolated brain relapse, received gamma knife. HCG 
subsequently normalized.
- ___: Isolated lung relapse as post resection.
- ___: Recurrent disease on CT.
- ___: CTT consult with progression (pembro).
- ___: Gemcitabine/oxaliplatin. Per patient, 4 cycles Q 3 
weeks complicated by persistent pancytopenia.
- ___ PET/CT with FGD avid pulmonary masses, lymph node near 
porta hepatis, and suspicious lesion on R lower extremity.
- ___: Palliative radition to skin lesion with single 
fraction electron beam radiothearpy.
- ___: C1D1 ___: A PHASE 2A SINGLE PATIENT 
COMPASSIONATE USE STUDY OF TRC___ IN COMBINATION WITH 
BEVACIZUMAB IN A PATIENT WITH REFRACTORY CHORIOCARCINOMA 
 
PAST MEDICAL HISTORY: 
- Non-insulin dependent diabetes, diagnosed ___ years ago
- Chronic Kidney Disease, diagnosed ___ years ago
- Peripheral Neuropathy, diagnosed ___
- Hearing loss, using hearing aids, ___ years ago

PAST SURGICAL HISTORY:
- Oncologic surgeries as noted above
- Hernia repair x4-5, most recently ___, other repairs ___ 
years ago
- Appendectomy, ___ years ago
 
Social History:
___
Family History:
No family history of stroke or neurologic disorders.
 
Physical Exam:
#ERROR!
Admission Physical Exam:
#ERROR!
VS: T 98.0 HR 88 BP 126/72 RR 20 SAT  93% O2 on 4LNC.
GENERAL: Pleasant, lying in bed comfortably.
EYES: Anicteric sclerea, PERLL, EOMI.
ENT: Oropharynx clear without lesion, JVD not elevated.
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or 
gallops; 2+ radial pulses.
RESPIRATORY: Appears in no respiratory distress, soft dry 
crackles at right base, otherwise clear with fair air movement.
GASTROINTESTINAL: Normal bowel sounds; nondistended; soft, 
nontender without rebound or guarding; no hepatomegaly, no 
splenomegaly.
MUSKULOSKELATAL: Warm, well perfused extremities without lower 
extremity edema; normal bulk.
NEURO: Alert, oriented, CN II-XII intact, motor and sensory 
function grossly intact.
SKIN: No significant rashes.
LYMPHATIC: No cervical, supraclavicular, submandibular 
lymphadenopathy. No significant ecchymoses.

#ERROR!
Discharge Physical Exam:
#ERROR!
 
Pertinent Results:
#ERROR!
Admission Labs:
#ERROR!
___ 04:36PM BLOOD WBC-9.5 RBC-3.33* Hgb-11.2* Hct-33.1* 
MCV-99* MCH-33.6* MCHC-33.8 RDW-13.8 RDWSD-49.1* Plt ___
___ 04:36PM BLOOD Glucose-119* UreaN-41* Creat-2.7* Na-137 
K-3.4 Cl-105 HCO3-14* AnGap-18
___ 04:36PM BLOOD CK(CPK)-26*
___ 04:36PM BLOOD CK-MB-3 cTropnT-0.05* proBNP-903*
___ 06:00AM BLOOD Calcium-8.0* Phos-3.0 Mg-2.2
___ 01:57PM BLOOD ___
___ 04:40PM BLOOD Lactate-1.2

#ERROR!
Discharge Labs:
#ERROR!

#ERROR!
Microbiology:
#ERROR!
___ Urine Culture - No Growth
___ Blood Culture - Pending

#ERROR!
Imaging:
#ERROR!
CXR ___
Impression: Right-sided PICC terminates in the low 
SVC/cavoatrial junction,without evidence of pneumothorax. Since 
the prior study. There has been substantial interval increase in 
size and number of now diffuse bilateral pulmonary nodular 
opacities, most consistent with progression of metastatic 
disease.

Bilateral Lower Extremity Ultrasound ___
Impression: No evidence of deep venous thrombosis in the right 
or left lower extremity veins.

TTE ___
Impression: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with normal global biventricular 
systolic function. Due to suboptimal image quality, a focal wall 
motion abnormality or valvular pathology cannot be fully 
excluded.

CT Chest w/o Contrast ___
1. Significant interval increase in size and number of 
innumerable pulmonary metastases.
2. New nonspecific multifocal areas of ground-glass opacity 
throughout all pulmonary lobes raises concern for lymphatic 
spread of malignancy.
3. New mediastinal lymphadenopathy.
 
Brief Hospital Course:
___ with DMII and metastatic choriocarcinoma who was admitted 
with subacute progressive dyspnea and found to have progressive 
hypoxia. 

ACUTE ISSUES:
#ERROR!
#Hypoxic respiratory failure  
#Choriocarcinoma
His hypoxia is almost certainly from his progressively pulmonary 
mets based off of chest x-ray and CT chest. Pulmonary embolism 
was felt to be unlikely with negative LENIs and no embolism seen 
on CT chest (albeit non-contrast). CHF unlikely with stable 
troponin and no volume overload on exam. He required increasing 
O2 and was transferred to the ICU on ___ for high flow oxygen. 
He was trailed on one day of ceftriaxone/azithromycin for 
potential pneumonia, furosemide for component of volume 
overload, and prednisone, but demonstrated zero improvement and 
these were all discontinued. In terms of his cancer, he has been 
on multiple rounds of chemotherapy and most recently started an 
IND trial with Avastin and a novel monoclonal antibody. He 
received salvage/palliative chemotherapy with 
gemcitabine/oxaliplatin on ___. HCG on ___ was ___, which 
was slightly up from before chemotherapy. His oxygen status 
continued to be tenuous and on ___ further declined. He was 
made CMO early in the morning and died shortly thereafter.  

#Goals of care
The patient initially expressed wishes to be full code, in part 
due to the need to complete pension paperwork prior to his 
death. Upon extensive family meetings, the decision was made for 
the patient to be DNR in the event that his hypoxemia lead to 
PEA arrest with the understanding that resuscitation would be of 
little to no benefit for him. The discussion regarding 
intubation was more difficult as he felt that it might buy him 
time for more chemotherapy. We discussed how intubation would be 
a sign that further chemo would not work and that even if he 
were to be intubated, he would not likely be successfully 
extubated. He was then made DNI. Following his respiratory 
failure worsening as above he was made CMO. 

CHRONIC ISSUES:
#ERROR!
# Chronic Kidney Disease. 
# Metabolic acidosis: Stage IV CKD. Baseline Cr 2.3-2.5, 
recently slowly increasing to around 2.8 earlier this month. His 
creatinine was trended. 

# DMII
Home oral medications were held and he was placed on an insulin 
sliding scale. 

# History of shingles
He was continued on his home VZV prophylaxis with valacyclovir. 

# Neuropathy
He was continued on his home pregabalin. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pregabalin 150 mg PO DAILY 
2. Testosterone Cypionate 200 mg IM Q MONTH 
3. ValACYclovir 500 mg PO EVERY OTHER DAY 
4. Co Q-10 (coenzyme Q10) 300 mg oral DAILY 
5. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Patient died.
 
Discharge Condition:
Patient died.
 
Discharge Instructions:
Patient died.
 
Followup Instructions:
___